US08357693B2
To a suspension of tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (150 mg, 0.33 mmol) and 1-(isocyanatomethyl)benzene (162 μL, 1.32 mmol,) in CH2Cl2 (2 mL) was added Et3N (1.38 mL, 9.9 mmol). The reaction mixture was stirred at RT for 4 h and concentrated in vacuo. The residue was triturated using MeOH and drops of CH2Cl2 to afford tert-butyl 5-(2-(3-(3-benzylureido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (100 mg, 52%)

reactant | tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.33 mmol, 150 mg | NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C26H24N6O2
reactant | 1-(isocyanatomethyl)benzene | 1.32 mmol, 162 μL | N(=C=O)CC1=CC=CC=C1 | C8H7NO
reactant | Et3N | 9.9 mmol, 1.38 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-(2-(3-(3-benzylureido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C1=CC=CC=C1)NC(NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O | C34H31N7O3
